US07932256B2
A solution of 2-methoxy-3,6-dimethyl-5-nitropyridine (32.3 g, 182 mmol) in 12 N hydrochloric acid (300 mL) was heated at 100° C. for 1 h. Analysis by TLC indicated that some starting material remained, so the reaction was heated at 110° C. for an additional 45 min. The reaction mixture was cooled to room temperature and poured onto ice (400 g). When the ice had melted and the temperature of the resulting thick brown suspension was still less than 0° C., the mixture was filtered. The solid cake was washed with water (100 mL) and allowed to dry on the filter for 30 min. The solid was then resuspended in cold (−10° C.) ethanol (150 mL), filtered, washed with cold ethanol (50 mL), and air-dried on the filter for 1 h to afford 3,6-dimethyl-5-nitropyridin-2-ol (28.0 g, 94% yield) as a tall powder: mp 263° C.; 1H NMR (400 MHz, DMSO-d) δ 12.42 (s br, 1H), 8.03 (s, 1H), 2.61 (s, 3H), 2.01 (s, 3H); LRMS (ESI) m/e 169.3 [(M+H)+, calcd for C7H9N2O3 169.1]. Anal. calcd. for C7H8N2O3: C, 50.00, H, 4.79, N, 16.66. Found: C, 50.01, H, 4.59, N, 16.75.

reactant | 2-methoxy-3,6-dimethyl-5-nitropyridine | 182 mmol, 32.3 g | COC1=NC(=C(C=C1C)[N+](=O)[O-])C | C8H10N2O3
solvent | hydrochloric acid | 12 N, 300 mL | Cl | ClH
product | 3,6-dimethyl-5-nitropyridin-2-ol | 28.0 g, 94% yield | CC=1C(=NC(=C(C1)[N+](=O)[O-])C)O | C7H8N2O3
